US05834506
2-tert-Butyl-4-(tert-butyl-dimethyl-silanyloxy)-5-methyl-benzenethiol
A solution of 3.02 g (9.00 mmol) of tert-butyl-(5-tert-butyl-2-methyl-4-thiocyanato-phenoxy)-dimethyl-silane (prepared in Example HHH), 2.3 g (12 mmol) of dithiothreitol, EtOH (20 mL), and 0.02M potassium dibasic phosphate buffer (10 mL) was heated to 50° C. overnight. The mixture was cooled to room temperature, diluted with hexanes and washed with H2O. The organic layer was then dried (Na2SO4) and the solvent removed in vacuo to yield the title compound. 1H NMR (CDCl3) δ 0.20 (s, 6 H), 1.00 (s, 9 H), 1.44 (s, 9 H), 2.10 (s, 3 H), 3.42 (s, 1 H), 6.80 (s, 1 H), 7.04 (s, 1 H).

reactant | tert-butyl-(5-tert-butyl-2-methyl-4-thiocyanato-phenoxy)-dimethyl-silane | 9.00 mmol, 3.02 g | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C(=C1)C(C)(C)C)SC#N)C | C18H29NOSSi
reactant | dithiothreitol | 12 mmol, 2.3 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | potassium dibasic phosphate | 0.02M, 10 mL | OP(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-tert-Butyl-4-(tert-butyl-dimethyl-silanyloxy)-5-methyl-benzenethiol | C(C)(C)(C)C1=C(C=C(C(=C1)O[Si](C)(C)C(C)(C)C)C)S | C17H30OSSi
